US06924278B2
A solution of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-[(1H-indol-3-yl)methyl]-4-[3-[6-(tert-butoxycarbonylamino)pyridin-3-yl]-2-propynyl]piperazine (127 mg) prepared by a similar manner to that of Example 5-(1) and trifluoroacetic acid (5 ml) in dichloromethane (5 ml) was stirred at room temperature for 2 hours. The reaction mixture was concentrated under reduced pressure and the residue was partitioned between saturated aqueous sodium bicarbonate solution. The organic layer was separated, dried over magnesium sulfate and concentrated under reduced pressure. The syrup obtained was dissolved into ethyl acetate and treated with 4N hydrogen chloride in ethyl acetate to give (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-[(1H-indol-3-yl) methyl]-4-[3-(6-aminopyridin-3-yl)-2-propynyl]piperazine dihydrochloride (80 mg).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-[(1H-indol-3-yl)methyl]-4-[3-[6-(tert-butoxycarbonylamino)pyridin-3-yl]-2-propynyl]piperazine | 127 mg | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CC=2C=NC(=CC2)NC(=O)OC(C)(C)C)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | C35H33F6N5O3
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-[(1H-indol-3-yl) methyl]-4-[3-(6-aminopyridin-3-yl)-2-propynyl]piperazine dihydrochloride | 80 mg | Cl.Cl.FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CC=2C=NC(=CC2)N)CC2=CNC3=CC=CC=C23)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C30H25F6N5O.2ClH/c31-29(32,33)22-12-20(13-23(15-22)30(34,35)36)28(42)41-11-10-40(9-3-4-19-7-8-27(37)39-16-19)18-24(41)14-21-17-38-26-6-2-1-5-25(21)26;;/h1-2,5-8,12-13,15-17,24,38H,9-11,14,18H2,(H2,37,39);2*1H/t24-;;/m1../s1
